US05455253
4-(3-Trifluoromethoxyphenyl)-2-methyl-4,6,7,8-tetrahydro-5(1H)-quinolone.
A solution of 3-(trifluoromethoxy)benzaldehyde (10.00 g) and 1,3-cyclohexanedione (5.90 g) in ethanol (50 mL) was stirred at reflux for 3 hours. Ammonium acetate (6.09 g) and acetone (3.67 g) were added to the cooled mixture, followed by a solution of acetic acid (3.79 g) and pyrrolidine (4.49 g) in ethanol (15 mL). The mixture was stirred at reflux overnight, poured into water and extracted with ethyl acetate (2×200 mL). The combined organics were dried and concentrated to an oil which was purified by chromatography (0-40% v/v ethyl acetate in methylene chloride) to yield the title compound (2.36 g) as an off-white solid, mp 144°-146° C.; NMR: 1.74 (s,3, CH3), 1.78-1.92 (m,2, CH2), 2.14-2.19 (m,2, CH2) 2.42-2.47 (m,2, CH2) (d,1, J=4.8, CH) 4.63 (d,1, J=4.9, CH) 7.01-7.05 (m,2, Ar) 7.17 (d,1, J=7.7, Ar) 7.36 (dd,1, J=7.7, 3.2, Ar), 8.52 (s,1, NH); (CI, CH4) MS: m/z=324(M+1). Analysis for C17H16NO2F3 : Calculated C, 63.15; H, 4.99; N, 4.33; Found: C, 62.88; H, 5.05; N, 4.33.

reactant | 3-(trifluoromethoxy)benzaldehyde | 10.00 g | FC(OC=1C=C(C=O)C=CC1)(F)F | C8H5F3O2
reactant | 1,3-cyclohexanedione | 5.90 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | Ammonium acetate | 6.09 g | C(C)(=O)[O-].[NH4+]
reactant | pyrrolidine | 4.49 g | N1CCCC1 | C4H9N
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | acetic acid | 3.79 g | C(C)(=O)O | C2H4O2
solvent | acetone | 3.67 g | CC(=O)C | C3H6O
product | 4-(3-Trifluoromethoxyphenyl)-2-methyl-4,6,7,8-tetrahydro-5(1H)-quinolone | 2.36 g | FC(OC=1C=C(C=CC1)C1C=C(NC=2CCCC(C12)=O)C)(F)F | C17H16F3NO2
